US06184225B2
A mixture of 6-methoxy-7-(2-piperidinoethoxy)-3,4-dihydroquinazolin-4-one (440 mg, 1.45 mmol), thionyl chloride (15 ml) and DMF (3 drops) was heated at reflux for 3 hours then allowed to cool. The excess thionyl chloride was removed by evaporation and the residue was azeotroped with toluene to give a crude 4-chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline hydrochloride (640 mg).

reactant | 6-methoxy-7-(2-piperidinoethoxy)-3,4-dihydroquinazolin-4-one | 1.45 mmol, 440 mg | COC=1C=C2C(NC=NC2=CC1OCCN1CCCCC1)=O | C16H21N3O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(2-piperidinoethoxy)quinazoline hydrochloride | 640 mg | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCCC1 | InChI=1S/C16H20ClN3O2.ClH/c1-21-14-9-12-13(18-11-19-16(12)17)10-15(14)22-8-7-20-5-3-2-4-6-20;/h9-11H,2-8H2,1H3;1H
